US07868003B2
3-[2-((R)-6,8-Dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)phenyl]-oxazolidine-2,4-dione
(R)-2-(6,8-Dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)phenylamine (300 mg, enantiomer B, preparation as described in WO2004085404) was dissolved in absolute THF (10 ml) and admixed at room temperature with stirring with sodium hexamethyl-disilazide solution (0.5 ml; 2 M in THF). After 30 min, acetoxyacetyl chloride (77 μl) was added and the mixture was stirred at room temperature for 2 h. Subsequently, the reaction mixture was concentrated, the residue was dissolved in ethyl acetate/water and basified with sodium hydrogencarbonate solution, and the phases were separated. The aqueous phase was extracted three times with ethyl acetate. The combined extracts were dried over magnesium sulfate, filtered and concentrated. 380 mg of the desired product were obtained. 40 mg thereof were dissolved in acetonitrile/water, acidified with 0.1 N hydrochloric acid and freeze-dried.

reactant | (R)-2-(6,8-Dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)phenylamine | 300 mg | ClC=1C=C2[C@@H](CN(CC2=C(C1)Cl)C)C1=C(C=CC=C1)N | C16H16Cl2N2
reactant | sodium hexamethyl-disilazide | 2 M, 0.5 ml | C[Si]([N-][Si](C)(C)C)(C)C.[Na+]
reactant | acetoxyacetyl chloride | 77 μl | C(C)(=O)OCC(=O)Cl | C4H5ClO3
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 3-[2-((R)-6,8-Dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)phenyl]-oxazolidine-2,4-dione | 380 mg | ClC=1C=C2[C@@H](CN(CC2=C(C1)Cl)C)C1=C(C=CC=C1)N1C(OCC1=O)=O | C19H16Cl2N2O3
